US04987141
Stage 1: 2,6-bis-(methanesulphonyloxy)pyridine.
2,6-dihydroxypyridine hydrochloride (3 g) was suspended in dichloromethane (250 cm3) under an atmosphere of nitrogen at 0° C. The mixture was treated with methanesulphonyl chloride (3.5 cm3). The suspension was stirred and triethylamine (9.4 cm3) was added in aliquots over 15 minutes. The resulting mixture was stirred for 17 hours and poured onto brine. The organic layer was separated, washed twice with brine, dried over anhydrous magnesium sulphate, and the solvent evaporated under reduced pressure.

reactant | 2,6-dihydroxypyridine hydrochloride | 3 g | Cl.OC1=NC(=CC=C1)O
reactant | methanesulphonyl chloride | 3.5 cm3 | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 9.4 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 cm3 | ClCCl | CH2Cl2
product | 2,6-bis-(methanesulphonyloxy)pyridine | CS(=O)(=O)OC1=NC(=CC=C1)OS(=O)(=O)C | C7H9NO6S2
